US07449475B2
N-[2-[(2S)-Oxiran-2-ylmethoxy]-5-(trifluoromethyl)phenyl]acetamide
A mixture of N-[2-hydroxy-5-(trifluoromethyl)phenyl]acetamide (282 mg, 1.28 mmol), (2S)-oxiran-2-ylmethyl-3-nitrobenzenesulfonate (331.5 mg, 1.28 mmol) and Cs2CO3 (487.5 mg, 1.28 mmol) in DMF (5 mL) was stirred at room temperature overnight. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was dried over Na2SO4, filtered and concentrated. The residue was purified by silica gel flash chromatography (0-40% ethyl acetate in petroleum ether) to give the subtitled compound (150 mg).

reactant | N-[2-hydroxy-5-(trifluoromethyl)phenyl]acetamide | 1.28 mmol, 282 mg | OC1=C(C=C(C=C1)C(F)(F)F)NC(C)=O | C9H8F3NO2
reactant | (2S)-oxiran-2-ylmethyl-3-nitrobenzenesulfonate | 1.28 mmol, 331.5 mg | O1[C@@H](C1)COS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C9H9NO6S
reactant | Cs2CO3 | 1.28 mmol, 487.5 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-[2-[(2S)-Oxiran-2-ylmethoxy]-5-(trifluoromethyl)phenyl]acetamide | 150 mg | O1[C@@H](C1)COC1=C(C=C(C=C1)C(F)(F)F)NC(C)=O | C12H12F3NO3
